US03988300
Preparation of 2-Chloro-4-nitrobenzophenone Intermediate
Thionyl chloride (35.8 grams, 0.305 mole) was added to a benzene solution of 2-chloro-4-nitrobenzoic acid (60.3 grams, 0.3 mole) and the mixture heated to reflux during 5 hours until the evolution of hydrogen chloride had ceased. Aluminum chloride (100 grams, 0.72 mole) was added slowly to the stirred solution during a 3.5 hour period and the temperature rose to 48° C. After the addition, the mixture was warmed to 80° C. for 2 hours, cooled, poured onto ice-water (one liter), concentrated hydrochloric acid (90 ml.) added and the mixture warmed at 40° C. for 3 hours. Benzene extraction followed by successive treatment with 5% aqueous sodium hydroxide, water and calcium chloride yielded, after removal of benzene, a reddish black residue purified by filtration. The pale yellow solid so obtained was further characterized as having a melting point equal to 95.5° - 96.5° C. in 44% yields.

reactant | Thionyl chloride | 0.305 mole, 35.8 grams | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chloro-4-nitrobenzoic acid | 0.3 mole, 60.3 grams | ClC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | hydrogen chloride | Cl | ClH
reactant | Aluminum chloride | 0.72 mole, 100 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 90 ml | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-Chloro-4-nitrobenzophenone | ClC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C13H8ClNO3
